US06982348B2
5) (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-[3-(isopropyloxy)benzyl]propanoic acid
To a solution-of ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-[3-(isopropyloxy)benzyl]propanoate (9.8 g, 27.2 mmol) in methanol (50 ml) was added 2N aqueous sodium hydroxide solution (27.2 ml, 54.4 mmol), and the mixture was stirred at room temperature for 3 hrs. The reaction solution was acidified with 6N hydrochloric acid (100 ml). The mixture was extracted with ethyl acetate (200, 100 ml). The extract was washed with water, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. The residue was crystallized from hexane to give the objective substance (7.44 g, 82%).

reactant | ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-[3-(isopropyloxy)benzyl]propanoate | 27.2 mmol, 9.8 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C)C)O | C21H25FO4
reactant | sodium hydroxide | 54.4 mmol, 2N, 27.2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6N, 100 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-[3-(isopropyloxy)benzyl]propanoic acid | FC1=CC=C(C=C1)C(C(C(=O)O)CC1=CC(=CC=C1)OC(C)C)O | C19H21FO4
